US07141575B2
6-(2-Furyl)-5-nitro-N4-(2-pyridylmethyl)pyrimidine-2,4-diamine
A solution of (2-amino-6-(2-furyl)-5-nitropyrimidin-4-yl) 4-methylbenzenesulphonate (478 mg, 1.27 mmol) in dimethoxyethane (15 mL) was treated with triethylamine (0.531 mL, 3.81 mmol) and 2-pyridinemethylamine (0.393 mL, 3.81 mmol), stirred for 16 h, poured into water (100 mL) and the resulting solid was filtered to give the title compound (275 mg, 69%) as a yellow solid; NMR δH (400 MHz, CDCl3) 8.70–8.58 (2H, m), 7.70–7.66 (1H, m), 7.55–7.54 (1H, m), 7.28 (1H, d, J 8.0 Hz), 7.24–7.20 (1H, m), 7.07–7.06 (1H, m), 6.54–6.52 (1H, m), 5.26 (2H, br s) and 4.83 (2H, d, J 5.0 Hz); Retention time 1.44 min.

reactant | (2-amino-6-(2-furyl)-5-nitropyrimidin-4-yl) 4-methylbenzenesulphonate | 1.27 mmol, 478 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1=NC(=NC(=C1[N+](=O)[O-])C=1OC=CC1)N | C15H12N4O6S
reactant | triethylamine | 3.81 mmol, 0.531 mL | C(C)N(CC)CC | C6H15N
reactant | 2-pyridinemethylamine | 3.81 mmol, 0.393 mL | N1=C(C=CC=C1)CN | C6H8N2
reactant | water | 100 mL | O | H2O
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
product | 6-(2-Furyl)-5-nitro-N4-(2-pyridylmethyl)pyrimidine-2,4-diamine | 275 mg, 69% | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCC1=NC=CC=C1)[N+](=O)[O-] | C14H12N6O3
